US07094908B2
Methyl 3-(2,5-dioxo-3-phenyl-2,5-dihydro-pyrrol-1-yl)-2-(2-methyl-[1,3]dioxolan-2-yl)propionate was prepared (1.0 g, 56%) in the same manner as described in the above example 5 (1) from methyl 3-amino-2-(2-methyl-[1,3]dioxolan-2-yl)propionate (1.00 g, 5.29 mmol) and phenylmaleic anhydride (1.10 g, 6.34 mmol), and the obtained product was identified with the following NMR data.

reactant | methyl 3-amino-2-(2-methyl-[1,3]dioxolan-2-yl)propionate | 5.29 mmol, 1.00 g | NCC(C(=O)OC)C1(OCCO1)C | C8H15NO4
reactant | phenylmaleic anhydride | 6.34 mmol, 1.10 g | C1(=CC=CC=C1)/C=1/C(=O)OC(\C1)=O | C10H6O3
product | Methyl 3-(2,5-dioxo-3-phenyl-2,5-dihydro-pyrrol-1-yl)-2-(2-methyl-[1,3]dioxolan-2-yl)propionate | O=C1N(C(C=C1C1=CC=CC=C1)=O)CC(C(=O)OC)C1(OCCO1)C | C18H19NO6
